US04772600
4-[[[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-yl]acetyl]amino]butanoic acid potassium salt hydrate [1:1:1]
A mixture of 4-[[[2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]amino]butanoic acid ethyl ester (3.3 g, 0.008 mole), potassium hydroxide (0.5 g, 0.009 mole), and 80 ml of 95% ethyl alcohol was heated at reflux for 1-3/4 hours. The hot reaction mixture was filtered, washed with absolute ethanol, and the filtrate was evaporated to a solid residue. The solid was triturated with acetone and filtered. The solid was dissolved in hot tert-butanol and allowed to cool with seeding. The crystalline precipitate was collected by filtration, washed with tert-butyl alcohol and dried under high vacuum at 50° C. overnight to give 1.2 g (35%) of title compound, mp 263°-264° C.

reactant | 4-[[[2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]amino]butanoic acid ethyl ester | 0.008 mole, 3.3 g | C(C)OC(CCCNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)=O)=O | C20H21ClN4O3
reactant | potassium hydroxide | 0.009 mole, 0.5 g | [OH-].[K+]
solvent | ethyl alcohol | 80 ml | C(C)O | C2H6O
product | 4-[[[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-yl]acetyl]amino]butanoic acid potassium salt hydrate | 1.2 g, 35% | O.[K+].ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCCC(=O)[O-] | InChI=1S/C18H17ClN4O3.K.H2O/c19-13-7-5-12(6-8-13)17-22-14-3-1-10-21-18(14)23(17)11-15(24)20-9-2-4-16(25)26;;/h1,3,5-8,10H,2,4,9,11H2,(H,20,24)(H,25,26);;1H2/q;+1;/p-1
